US06528525B1
Ethyl 3-[4-[2-(biphenyl-4-carbonylamino)ethoxy]phenyl]-2-(4-isopropylphenoxy)propionate (ethyl ester of exemplification No. 7-15 compound)
In a similar manner to that described in Example 73, a reaction was carried out using ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-isopropylphenoxy)propionate (723 mg), which is the product of Reference example 25, biphenyl-4-carboxylic acid (303 mg), diethyl cyanophosphonate (0.25 ml) and triethylamine (0.47 ml) and the reaction mixture was treated to give the title compound (630 mg) as a yellow oil.

reactant | ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-isopropylphenoxy)propionate | 723 mg | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)C(C)C | C27H37NO6
reactant | biphenyl-4-carboxylic acid | 303 mg | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | diethyl cyanophosphonate | 0.25 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | triethylamine | 0.47 ml | C(C)N(CC)CC | C6H15N
product | Ethyl 3-[4-[2-(biphenyl-4-carbonylamino)ethoxy]phenyl]-2-(4-isopropylphenoxy)propionate | 630 mg | C1(=CC=C(C=C1)C(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)C(C)C)C1=CC=CC=C1 | C35H37NO5
